US09062070B2
Methyl quinoline-5-carboxylate (3.67 g, 19.61 mmol) was dissolved in TFA (60 mL) and added platinum oxide (0.49 g, 2.16 mmol) then hydrogenated at room temperature overnight. The catalyst was filtered off and the filtrate was evaporated to dryness. The residue was chromatographed through a 120 g ISCO Redi-sep column and eluted with 5% of (10% NH4OH in MeOH) in DCM to yield methyl 5,6,7,8-tetrahydroquinoline-5-carboxylate: LC-MS: M+1=192.

reactant | Methyl quinoline-5-carboxylate | 19.61 mmol, 3.67 g | N1=CC=CC=2C(=CC=CC12)C(=O)OC | C11H9NO2
solvent | TFA | 60 mL | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | platinum oxide | 2.16 mmol, 0.49 g | [Pt]=O
product | methyl 5,6,7,8-tetrahydroquinoline-5-carboxylate | N1=CC=CC=2C(CCCC12)C(=O)OC | C11H13NO2
